US07307084B2
AN. 4-Benzyloxy-6-bromo-1-methoxymethyl-2-methyl-1H-benzimidazole
2.0 g (6.3 mmol) 4-Benzyloxy-6-bromo-2-methyl-1H-benzimidazole were solved in dimethylformamide (10 ml) and the solution was cooled to 0° C. 151 mg (6.5 mmol) sodium hydride (60%) were added in portions and the reaction was stirred for 20 min. 435 μl (6.3 mmol) 1-Chloro-1-methoxy-methane were added and the reaction was stirred at 0° C. After 2 h the mixture was poured into water (200 ml) and extracted with ethyl acetate. The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (toluene/dioxane=6:1) to afford 0.6 g (26%) of the title compound as a yellow oil.

reactant | 4-Benzyloxy-6-bromo-2-methyl-1H-benzimidazole | 6.3 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=CC(=CC=2NC(=NC21)C)Br | C15H13BrN2O
reactant | sodium hydride | 6.5 mmol, 151 mg | [H-].[Na+]
reactant | 1-Chloro-1-methoxy-methane | 6.3 mmol, 435 μl | ClCOC | C2H5ClO
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-6-bromo-1-methoxymethyl-2-methyl-1H-benzimidazole | 0.6 g, 26% | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C)COC)Br | C17H17BrN2O2
